US07563816B2
Step G: 1-(1-{2-[(3,3-Dimethylbutyl)(ethyl)amino]-2-oxoethyl}-6-methoxy-1H-indazol-3-yl)-2-methylprop-1-en-1-yl dihydrogen phosphate
Reaction of 1-(1-{2-[(3,3-dimethylbutyl)(ethyl)amino]-2-oxoethyl}-6-methoxy-1H-indazol-3-yl)-2-methylprop-1-en-1-yl dimethyl phosphate with trimethylsilyl bromide as described in Example 2 provided the title compound. It was isolated by RP-HPLC using 10-100% MeCN gradient without TFA as a colorless solid following lyophilization. 1H NMR (CD3CN, 500 MHz) showed two amide rotomers in about 6:7 ratio: δ 7.55 (d, 8.7 Hz, 1H), 6.88 & 6.87 (d, 1.9 Hz, 1H), 6.84 (dd, 2.1 & 8.9 Hz, 1H), 5.23 & 5.21 (s, 2H), 3.88 & 3.87 (s, 3H), 3.31˜3.48 (m, 4H, overlapping with residual water peak), 1.94 (d, 1.8 Hz, 3H), 1.81-1.82 (m, 3H), 1.61-1.64 & 1.42˜1.46 (m, 2H), 1.26 & 1.10 (t, 7.1 Hz, 3H), 0.99 & 0.91 (s, 9H). LC-MS: 3.18 min. (m/Z=370.2, 468.1).

reactant | 1-(1-{2-[(3,3-dimethylbutyl)(ethyl)amino]-2-oxoethyl}-6-methoxy-1H-indazol-3-yl)-2-methylprop-1-en-1-yl dimethyl phosphate | P(=O)(OC(=C(C)C)C1=NN(C2=CC(=CC=C12)OC)CC(=O)N(CC)CCC(C)(C)C)(OC)OC | C24H38N3O6P
reactant | trimethylsilyl bromide | C[Si](C)(C)Br | C3H9BrSi
product | 1-(1-{2-[(3,3-Dimethylbutyl)(ethyl)amino]-2-oxoethyl}-6-methoxy-1H-indazol-3-yl)-2-methylprop-1-en-1-yl dihydrogen phosphate | P(=O)(OC(=C(C)C)C1=NN(C2=CC(=CC=C12)OC)CC(=O)N(CC)CCC(C)(C)C)(O)O | C22H34N3O6P
